US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-sulfamoylphenyl)-L-phenylalanine methyl ester (100 mg) was dissolved in anhydrous pyridine (5 mL). To this solution was added benzoyl chloride (50 μL) and the mixture was stirred for 12 h at room temperature under N2. EtOAc and satd. NaHCO3 were added to the mixture and the EtOAc phase was washed with 1 N HCl, dried (MgSO4) and evaporated. The residue was purified by flash column chromatography (silica gel; eluent: EtOAc/hexanes 1:2) to give N-(2,6-dichlorobenzoyl)-4-[2-(N-benzoylsulfamoyl)phenyl]-L-phenylalanine methyl ester.

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-sulfamoylphenyl)-L-phenylalanine methyl ester | 100 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O | C23H20Cl2N2O5S
reactant | benzoyl chloride | 50 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,6-dichlorobenzoyl)-4-[2-(N-benzoylsulfamoyl)phenyl]-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(NC(C1=CC=CC=C1)=O)(=O)=O)=O | C30H24Cl2N2O6S
